US05081238
To 3.26 g (10.4 mmol) of (-)-3-t-butyldimethylsilyloxybutyric acid phenylthio ester was added 50 ml of acetic acid: THF:water (3:1:1) and the mixture was stirred at 50° C. for 24 hours. The resultant was concentrated and distilled (128° to 130° C./0.8 mmHg) to give 1.91 g of (-)-3-hydroxybutyric acid phenylthio ester (yield: 94%).

reactant | (-)-3-t-butyldimethylsilyloxybutyric acid phenylthio ester | 10.4 mmol, 3.26 g | C1(=CC=CC=C1)SOC(CC(C)O[Si](C)(C)C(C)(C)C)=O | C16H26O3SSi
solvent | acetic acid THF water | 50 ml | C(C)(=O)O.C1CCOC1.O
product | (-)-3-hydroxybutyric acid phenylthio ester | 1.91 g, yield: 94% | C1(=CC=CC=C1)SOC(CC(C)O)=O | C10H12O3S
